US06495542B1
A mixture of N-(2-amino-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide (90 mg) and acetic anhydride (1.0 ml) was stirred for 1 hour at room temperature and allowed to stand overnight at the same temperature. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The resulting solution was washed with saturated aqueous sodium hydrogencarbonate solution, water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-ethyl acetate=10-1) to give N-(2-acetamido-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide (42 mg).

reactant | N-(2-amino-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide | 90 mg | NC1=NC2=C(N1)C=CC=C2NC(C2=C(C=C(C=C2)C(=O)N2CCCCC1=C2C=CC=C1)OC)=O | C26H25N5O3
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-acetamido-1H-benzimidazol-4-yl)-2-methoxy-4-(2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonylbenzamide | 42 mg | C(C)(=O)NC1=NC2=C(N1)C=CC=C2NC(C2=C(C=C(C=C2)C(=O)N2CCCCC1=C2C=CC=C1)OC)=O | C28H27N5O4
